US04714698
4-(N-Methyl-ethylamino)-8-methylthio-2-piperazino-pyrimido[5,4-d]pyrimidine
Prepared analogously to Example 2 from 2-chloro-4-(N-methyl-ethylamino)-8-methylthio-pyrimido[5,4-d]pyrimidine and piperazine in dimethylsulphoxide.

reactant | 2-chloro-4-(N-methyl-ethylamino)-8-methylthio-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC)N(C)CC | C10H12ClN5S
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 4-(N-Methyl-ethylamino)-8-methylthio-2-piperazino-pyrimido[5,4-d]pyrimidine | CN(C=1C2=C(N=C(N1)N1CCNCC1)C(=NC=N2)SC)CC | C14H21N7S
